US04875928
A mixture of 44.3 g of 4-chlorophenyl 1,2,4-triazol-1-yl-methyl ketone, 19.6 g of 1-hydroxymethyl-1,2,4-triazole, 300 ml of toluene, 6 g of acetic acid and 2 ml of piperidine is heated under a water separator until separation of water is complete. The mixture is allowed to cool, and the crystalline precipitate formed is filtered off under suction and washed with diisopropyl ether. 47 g (76% of theory) of 1-(4-chlorophenyl)-2,3-di-(1,2,4-triazol-1-yl)-propan-1-one of melting point 240° C. are obtained.

reactant | 4-chlorophenyl 1,2,4-triazol-1-yl-methyl ketone | 44.3 g | N1(N=CN=C1)CC(=O)C1=CC=C(C=C1)Cl | C10H8ClN3O
reactant | 1-hydroxymethyl-1,2,4-triazole | 19.6 g | OCN1N=CN=C1 | C3H5N3O
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | water | O | H2O
solvent | acetic acid | 6 g | C(C)(=O)O | C2H4O2
product | 1-(4-chlorophenyl)-2,3-di-(1,2,4-triazol-1-yl)-propan-1-one | 47 g, 76% | ClC1=CC=C(C=C1)C(C(CN1N=CN=C1)N1N=CN=C1)=O | C13H11ClN6O
